Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
GI Bleed
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ y/o woman with a hx of insomnia, anxiety, s/p colectomy "for 
blockage" in ___ ___ years ago, iron deficiency anemia 
from chronic blood loss, presents to the ED from outpatient 
small bowel endoscopy for blood identified in small bowel but no 
localized source. Pt reports that she has been completely 
asymptomatic and her chronic anemia was discovered incidentally 
on during lab work. She denies any worsening of chest pain, 
fatigue, SOB on exertion, SOB, lightheadedness, melena, fever, 
night sweats, unintentional weightloss. She does have 
constipation at baseline. 

With regard to GI bleed, patient says that she has been told 
that she has had chronic anemia for the past ___ years. She also 
recalls being told that she has had a bleed for the past ___ 
years.  
 
In the ED, initial vitals: 97.5, 131/50, 68, 18, 100% RA. 
Physical exam was notable for mild TTP in LUQ, no rebound 
guarding. GI was consulted 
- Labs were significant for H&H 9.1/29.7  
- CTA showed no active bleeding 
- In the ED, she received 1L NS. 
- Vitals prior to transfer:  98.1 119/50 78 18 100%RA

Upon arrival to the floor, the patient is a very confusing 
historian, even with a ___. She misunderstood 
her colonoscopy instructions and reports not having had anything 
to eat or drink for the past 4 days.

 
Past Medical History:
prediabetes 
osteoporosis
constipation 
chronic anemia
osteoarthritis of b/l knees
insomnia
anxiety
allergic rhinitis
hiatal hernia
sigmoid polyp
endometrial polyp ___ glandular, endometrio basal)
headache
angiodysplasia w/ active bleeding of ___ part of duodenum on 
capsule endoscopy ___
h/o peptic ulcers
bowel obstruction s/p colectomy ___ in ___
 
___ History:
___
Family History:
2 sisters with uterine/pelvic cancer, one in her late ___ the 
other at ___. One passed from cancer, other had died from 
bleeding during surgery. no family history of bleeding issues, 
colon cancer. 

 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VITAL SIGNS - Tmax 98.9 | 134-160/67-73| 73-80| ___ | 97-100 
RA 
GENERAL - lying in bed NAD 
HEENT - EOMI, PERRL, anicterus, moist mucous membrane.
NECK - no LAD
CARDIAC - normal rate and rhythm, normal S1/S2, no murmurs
LUNGS - CTAB
ABDOMEN - soft, nondistended, not TTP in all four quadrant. 
Normal bowel sounds. Healed midline scar present
EXTREMITIES - ___ strength in all extremities, no ___ edema
NEUROLOGIC - alert and orientated, easily distractable
SKIN - no rashes

DISCHARGE PHYSICAL EXAM:
VITAL SIGNS - Tmax 98.9 | 134-160/67-73| 73-80| ___ | 97-100 
RA 
GENERAL - lying in bed NAD 
HEENT - EOMI, PERRL, anicterus, moist mucous membrane.
NECK - no LAD
CARDIAC - normal rate and rhythm, normal S1/S2, no murmurs
LUNGS - CTAB
ABDOMEN - soft, nondistended, not TTP in all four quadrant. 
Normal bowel sounds. Healed midline scar present
EXTREMITIES - ___ strength in all extremities, no ___ edema
NEUROLOGIC - alert and orientated, easily distractable
SKIN - no rashes
 
 
Pertinent Results:
On Admission
___ 01:55PM BLOOD WBC-8.7 RBC-3.78* Hgb-9.5* Hct-31.8* 
MCV-84 MCH-25.1* MCHC-29.9* RDW-14.8 RDWSD-45.3 Plt ___
___ 01:55PM BLOOD Neuts-79.3* Lymphs-13.1* Monos-6.4 
Eos-0.3* Baso-0.6 Im ___ AbsNeut-6.89* AbsLymp-1.14* 
AbsMono-0.56 AbsEos-0.03* AbsBaso-0.05
___ 01:55PM BLOOD ___ PTT-26.6 ___
___ 01:55PM BLOOD Glucose-96 UreaN-15 Creat-0.7 Na-142 
K-4.2 Cl-105 HCO3-26 AnGap-15
___ 01:55PM BLOOD ALT-14 AST-20 AlkPhos-104 TotBili-1.1
___ 01:55PM BLOOD Albumin-4.1 Calcium-9.0 Phos-4.1 Mg-3.3*
___ 04:45PM BLOOD CEA-2.3 CA125-15
___ 02:20PM BLOOD Lactate-1.1

On discharge
___ 04:45PM BLOOD WBC-8.9 RBC-3.38* Hgb-8.7* Hct-28.6* 
MCV-85 MCH-25.7* MCHC-30.4* RDW-15.2 RDWSD-46.2 Plt ___
___ 06:32AM BLOOD ___ PTT-25.6 ___
___ 06:32AM BLOOD Glucose-68* UreaN-12 Creat-0.8 Na-146* 
K-3.8 Cl-109* HCO3-21* AnGap-20
___ 06:32AM BLOOD Calcium-9.1 Phos-3.6 Mg-2.8*

Imaging
EEG (___): 
Intervals: Rate 109, PR 189, QRS 90, QTc 439/477
Axes: P 86, QRS 4, T 69

CTA Abd & Pelvis (___):
IMPRESSION
1. No evidence of active extravasation in the colon.  No bowel 
obstruction or bowel wall thickening. 
2. Markedly thickened and heterogeneous uterine endometrium for 
which further assessment with GYN evaluation and biopsy 
recommended. 
3. 1.4 cm hypodense left adnexal structure, possibly cystic.  
Given that 
patient is postmenopausal, recommend nonurgent pelvic ultrasound 
for further assessment. 
4. 1.2 cm heterogeneously enhancing right renal lesion is 
worrisome for renal cell carcinoma until proven otherwise.  
Additional indeterminate density renal lesion in the left 
kidney. 

Pelvic U/S (___): 
IMPRESSION
1. Thickened, heterogeneous endometrium with multiple cystic 
spaces and 
prominent vascular flow.  These findings are consistent with 
endometrial 
carcinoma. 
2. Simple appearing cyst in left ovary measuring 1.7 cm. 

 
Brief Hospital Course:
___ y/o woman with a hx of insomnia, anxiety, s/p colectomy "for 
blockage" in ___ ___ years ago, iron deficiency anemia 
from chronic blood loss, presents to the ED from outpatient 
small bowel endoscopy for blood identified in small bowel but no 
localized source.

ACTIVE ISSUES:
#Small Bowel Bleed: Capsule endoscopy ___ showedblood in ___ 
part of duodenum, atlhough H&H stable from ___. CTA without 
e/o active bleed, but notably had a number of concerning 
incidental findings (see below). H&H stable throughout 
hospitalization. After discussion with GI, it was not felt that 
capsule endoscopy would be helpful at this point given mild 
chronic nature of bleed. Patient was discharged with a plan to 
f/u with gastroenterology.

#Adnexal mass: Patient with an incidental finding of 1.4 cm 
hypodense left adnexal structure on CTA. Pelvic ultrasound was 
consistent with c/w cyst.

#Endometrial finding: Pt w/markedly thickened and heterogeneous 
uterine endometrium. She notably had a history of endometrial 
polyp discovered in ___ in ___. Gynecology was 
consulted, and it was recommended that patient f/u as an 
outpatient with gynecology. Pelvic ultrasound was performed, 
which showed "Thickened, heterogeneous endometrium with multiple 
cystic spaces and prominent vascular flow. These findings are 
consistent with endometrial carcinoma." CEA, CA 125, and CA ___ 
were sent. We notably did have a long discussion with patient 
regarding these findings, and she is aware that cancer is a 
possible diagnosis.

#Renal mass: CTA incidentally showed bilateral renal masses 
(1.2cm on Right and indeterminate on Left), concerning for RCC. 
Urology was consulted, who recommended f/u with urology as an 
outpatient - will likely monitor w/ serial scans until masses 
are larger. 

#Medication compliance: Of note, patient was taking very few 
medications on admission, and this was very different from the 
list of medications at her PCP's office. This should be 
clarified with patient at next PCP ___. There is some concern 
for cognitive impairment playing a role in medication 
nonadherence, although her family believes her to be quite 
functional and independent at home.

CHRONIC ISSUES
#HTN: Patient had not been taking losartan at home
#Anxiety: Patient was continued on mirtazapine
#OA: Continue home acetaminophen

=
=
=
=
=
=
=
=
=
=
================================================================
Transitional Issues:
-f/u with PCP
-___ recheck ___ at next PCP visit
-___ with gynecology to consider endometrial biopsy
-f/u with gastroenterology
-f/u with urology
-If Left ovarian cyst not surgically removed, follow-up pelvic 
ultrasound in 6 months is recommended. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Calcium Carbonate 500 mg PO DAILY 
2. Vitamin D 400 UNIT PO DAILY 
3. Acetaminophen 500 mg PO Q8H:PRN Pain - Mild 
4. Polyethylene Glycol 17 g PO DAILY:PRN constipation 

 
Discharge Medications:
1.  Acetaminophen 500 mg PO Q8H:PRN Pain - Mild  
2.  Calcium Carbonate 500 mg PO DAILY  
3.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  
4.  Vitamin D 400 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
GI bleed
Renal masses
Endometrial abnormalities
Ovarian mass

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

___ were admitted to ___ after 
___ had bleeding in your gastrointestinal tract. ___ had a 
procedure called an endoscopy, which did not show a clear area 
where ___ were bleeding from. ___ should follow up with your 
gastroenterologist after ___ leave.

___ also had a scan of your abdomen which showed masses on your 
kidneys and an abnormality in your uterus. As we discussed, we 
are concerned that this could be cancer. ___ should follow up 
with your gynecologist and urologist.

___ should follow up with your gastroenterology doctor, your new 
gynecologist and a urologist.

It was a pleasure to help care for ___ during this 
hospitalization.

Sincerely,
Your ___ Team
 
Followup Instructions:
___